US08350046B2
Synthesis of N-(2-chlorophenyl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide
80.0 g (0.403 mol, 98% pure) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride were dissolved at 25° C. in 257.2 g of toluene. The solution was evacuated to 400 mbar and heated to 85° C. Subsequently, within 3 hours, 221.3 g (0.399 mol, 23% strength) of toluenic 2-chloroaniline solution were metered in and the reaction mixture was stirred for a further 1 hour. After venting and cooling to 20° C. with a ramp of 10° C./h, the mixture was stirred overnight. Subsequently, the mixture was cooled to 0° C., and the solids were filtered off, washed with cold toluene and dried at 80° C. under reduced pressure. The yield (without further processing of the mother liquor) was 105 g (92%).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.403 mol, 80.0 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 2-chloroaniline | 0.399 mol, 221.3 g | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | toluene | 257.2 g | C1(=CC=CC=C1)C | C7H8
product | N-(2-chlorophenyl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide | ClC1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)F | C12H10ClF2N3O
